US07531532B2
1-(3-Dimethylaminopropyl)-3-{6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}-1-methylurea
2-Phenylacetyl chloride (0.032 ml) was dissolved in acetonitrile (3 ml) under a nitrogen atmosphere, and then potassium thiocyanate (46.6 mg) was added thereto at 60° C., followed by stirring at the same temperature for 2 hrs. The reaction mixture was cooled down to room temperature, and then ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate were added thereto, followed by stirring for 30 min. The organic layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then dissolved in toluene (1 ml)-ethanol (1 ml), and then a solution of 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1-(3-diethylaminopropyl)-1-methylurea in toluene (1.5 ml)-ethanol (1.5 ml) was added thereto under a nitrogen atmosphere, followed by stirring at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; heptane:ethyl acetate=1:1). Fractions containing the crude product were concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; heptane:ethyl acetate=1:1). Fractions containing the target compound were concentrated to give a residue, which was dried in vacuum to provide the titled compound (6.0 mg, 12.5%) as a white solid.

reactant | 2-Phenylacetyl chloride | 0.032 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 46.6 mg | [S-]C#N.[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1-(3-diethylaminopropyl)-1-methylurea | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C)CCCN(CC)CC)=O)C=C1)F | C19H27FN6O2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Dimethylaminopropyl)-3-{6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}-1-methylurea | 6.0 mg, 12.5% | CN(CCCN(C(=O)NC1=NC=NC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F)C)C | C26H30FN7O3S
